US04279918
2-(α-cyano-4-chlorobenzylidene)-1-methylpyrrolidine
Boil 22.7 g of 2,2-diethoxy-1-methylpyrrolidine, 19.8 g of 4-chlorobenzylcyanide and 90 ml of benzene for 1 hour under reflux and with stirring. Distil off the volatile constituents under a vacuum. After trituration with a little diethyl ether, filter off the residue to obtain 20.8 g (68% of theory) and the title compound (m.p. 71° to 72° from isopropanol).

reactant | 2,2-diethoxy-1-methylpyrrolidine | 22.7 g | C(C)OC1(N(CCC1)C)OCC | C9H19NO2
reactant | 4-chlorobenzylcyanide | 19.8 g | ClC1=CC=C(CC#N)C=C1 | C8H6ClN
solvent | benzene | 90 ml | C1=CC=CC=C1 | C6H6
product | 2-(α-cyano-4-chlorobenzylidene)-1-methylpyrrolidine | C(#N)C(C1=CC=C(C=C1)Cl)=C1N(CCC1)C | C13H13ClN2
